US05110955
A solution of 3.83 g (12 mmol) of (E)-5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-3-methyl-2-pentenyl acetate in acetonitrile (50 ml) was treated dropwise at 0° C. with a solution of ceric ammonium nitrate (16.4 g; 30 mmol) in water (50 ml). After completion of the addition the mixture was stirred for a further 20 minutes and diluted with water and chloroform. The organic phase was separated, washed with water, dried and concentrated to a yellow oil, yielding (E)-3-methyl-5-(2,4,5-trimethyl-3,6-dioxo-1,4-cyclohexadien-1-yl)-2-pentenyl acetate (3.27 g).

reactant | (E)-5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-3-methyl-2-pentenyl acetate | 12 mmol, 3.83 g | C(C)(=O)OC\C=C(\CCC1=C(C(=C(C(=C1C)OC)C)C)OC)/C | C19H28O4
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | water | 50 ml | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (E)-3-methyl-5-(2,4,5-trimethyl-3,6-dioxo-1,4-cyclohexadien-1-yl)-2-pentenyl acetate | 3.27 g | C(C)(=O)OC\C=C(\CCC1=C(C(C(=C(C1=O)C)C)=O)C)/C | C17H22O4
